US09315458B2
D) methyl 5-(4-fluoro-3-methoxybenzyl)-2-formyl-3,4-dimethylbenzoate
To a solution of methyl 5-(4-fluoro-3-methoxybenzyl)-3,4-dimethyl-2-vinylbenzoate (0.39 g) in a mixed solvent of acetone (9.00 mL)-acetonitrile (9.00 mL)-water (9.00 mL) were added osmium oxide (fixed catalyst I) (0.15 g) and sodium periodate (1.27 g), and the mixture was stirred at room temperature for 2.5 days. The reaction mixture was filtered, and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate to give the title compound (0.39 g). This compound was used in the next step without an additional purification.

reactant | methyl 5-(4-fluoro-3-methoxybenzyl)-3,4-dimethyl-2-vinylbenzoate | 0.39 g | FC1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=C)C)C)C=C1)OC | C20H21FO3
reactant | acetone | 9.00 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 9.00 mL | C(C)#N | C2H3N
reactant | sodium periodate | 1.27 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium oxide | [Os]=O
catalyst | osmium oxide | 0.15 g | [Os]=O
solvent | water | 9.00 mL | O | H2O
product | methyl 5-(4-fluoro-3-methoxybenzyl)-2-formyl-3,4-dimethylbenzoate | 0.39 g | FC1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)C)C)C=C1)OC | C19H19FO4
